US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of N4-(3-tert-butylphenyl)-2-chloro-5-fluoro-4-pyrimidineamine with 3-chloro-4-hydroxy-5-methylaniline gave N4-(3-tert-butylphenyl)-N2-(3-chloro-4-hydroxy-5-methylphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 25.46 min.; purity: 100%; MS (m/e): 400 (M+); 1H NMR (DMSO-d6): δ 9.63 (1H, s), 9.30 (1H, s), 8.82 (1H, s), 8.20 (1H, d, J=3.9 Hz), 7.92 (1H, d, J=8,8 Hz), 7.58 (2H, m), 7.40–7.20 (3H, m) 2.22 (3H, s), 1.35 (9H, s).

reactant | N4-(3-tert-butylphenyl)-2-chloro-5-fluoro-4-pyrimidineamine | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl | C14H15ClFN3
reactant | 3-chloro-4-hydroxy-5-methylaniline | ClC=1C=C(N)C=C(C1O)C | C7H8ClNO
product | N4-(3-tert-butylphenyl)-N2-(3-chloro-4-hydroxy-5-methylphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC(=C(C(=C1)C)O)Cl | C21H22ClFN4O
